US07759397B2
a.1.1 Toluene-4-sulfonic acid (S)-2-phenyl-propyl ester
To a solution of 20 g of (S)-(−)-2-phenyl-1-propanol in 240 ml of dichloromethane was added in portions 28 g of p-toluenesulfonyl chloride (146.8 mmol). After stirring for 18 h at room temperature, the organic phase was washed with 100 ml of water, dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to yield 43 g of the title compound.

reactant | (S)-(−)-2-phenyl-1-propanol | 20 g | C1(=CC=CC=C1)[C@@H](CO)C | C9H12O
reactant | p-toluenesulfonyl chloride | 146.8 mmol, 28 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 240 ml | ClCCl | CH2Cl2
product | Toluene-4-sulfonic acid (S)-2-phenyl-propyl ester | 43 g | C1(=CC=CC=C1)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)C | C16H18O3S
